US05364871
A suspension of 2-(diaminomethyleneamino)-4-(5-phthalimidomethylpyridin-3-yl)thiazole (2.47 g) and hydrazine hydrate (0.4 g) in methanol was stirred at room temperature for 5 hours. 3N hydrochloride solution (40 ml) was added slowly and then the mixture was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure. The residue was suspended in water (30 ml) and then the resulting precipitate was removed by filtration. The solvent was removed under reduced pressure to afford 4-(5-aminomethylpyridin-3-yl)2-(diaminomethyleneamino)thiazole trihydrochloride.

reactant | 2-(diaminomethyleneamino)-4-(5-phthalimidomethylpyridin-3-yl)thiazole | 2.47 g | NC(N)=NC=1SC=C(N1)C=1C=NC=C(C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C18H14N6O2S
reactant | hydrazine hydrate | 0.4 g | O.NN
reactant | hydrochloride | 3N, 40 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-(5-aminomethylpyridin-3-yl)2-(diaminomethyleneamino)thiazole trihydrochloride | Cl.Cl.Cl.NCC=1C=C(C=NC1)C=1N=C(SC1)N=C(N)N | InChI=1S/C10H12N6S.3ClH/c11-2-6-1-7(4-14-3-6)8-5-17-10(15-8)16-9(12)13;;;/h1,3-5H,2,11H2,(H4,12,13,15,16);3*1H
